US07666871B2
2-(4-Bromo-phenyl)-4-(2-iodo-ethyl)-5-methyl-oxazole
Add iodine (1.90 g, 7.49 mmol) to a stirred mixture of 2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethanol (1.503 g, 5.33 mmol), triphenylphosphine (2.101 g, 8.01 mmol), and pyridine (1.4 mL, 17 mmol) in toluene (48 mL) and heat at 100° C. for 45 min. Cool to room temperature, add ethyl acetate and water, and separate the layers. Extract the aqueous layer twice with ethyl acetate, wash the organic layer with 0.1N HCl, dry over anhydrous magnesium sulfate, and concentrate under reduced pressure. Purify the residue by flash chromatography (SiO2, elute 0% to 10% EtOAc/hexanes) to-yield 1.804 g of the title compound as a colorless solid. 1H NMR (400 MHz, CDCl3) δ 7.89 (d, J=8.4 Hz, 2H), 7.60 (d, J=8.8 Hz, 2H), 3.49 (dd, J=7.2, 7.2 Hz, 2H), 3.11 (dd, J=7.2, 7.2 Hz, 2H), 2.39 (s, 3H).

reactant | iodine | 7.49 mmol, 1.90 g | II | I2
reactant | 2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethanol | 5.33 mmol, 1.503 g | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCO)C | C12H12BrNO2
reactant | triphenylphosphine | 8.01 mmol, 2.101 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyridine | 17 mmol, 1.4 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 48 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-Bromo-phenyl)-4-(2-iodo-ethyl)-5-methyl-oxazole | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCI)C | C12H11BrINO
